US07446102B2
Benzyl[(1S)-2-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-1-(hydroxymethyl)-2-oxoethyl]carbamate
1.05 g (2.759 mmol) of HATU and 648.3 mg (5.016 mmol) of N,N-diisopropylethylamine are added to a solution of 600 mg (2.5 mmol) of N-[(benzyloxy)carbonyl]-L-serine in 25 ml of anhydrous DMF. After stirring at RT for 15 min, 442.0 mg (2.76 mmol) of tert-butyl(2-aminoethyl)carbamate are added. The reaction mixture is stirred at RT for 15 h. The solvent is then evaporated and the residue is taken up in dichloromethane. The organic phase is washed with water, dried over magnesium sulfate and concentrated. The crude product is purified by preparative HPLC.

reactant | HATU | 2.759 mmol, 1.05 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 5.016 mmol, 648.3 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-[(benzyloxy)carbonyl]-L-serine | 2.5 mmol, 600 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CO)C(=O)O | C11H13NO5
reactant | tert-butyl(2-aminoethyl)carbamate | 2.76 mmol, 442.0 mg | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | Benzyl[(1S)-2-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-1-(hydroxymethyl)-2-oxoethyl]carbamate | C(C1=CC=CC=C1)OC(N[C@H](C(=O)NCCNC(=O)OC(C)(C)C)CO)=O | C18H27N3O6
